US08426604B2
4-(5-Formyl-indazol-1-ylmethyl)-3-trifluoromethyl-benzonitrile was prepared from 4-bromomethyl-3-trifluoromethyl-benzonitrile and 1H-indazole-5-carbaldehyde following General Procedure A.

reactant | 4-bromomethyl-3-trifluoromethyl-benzonitrile | BrCC1=C(C=C(C#N)C=C1)C(F)(F)F | C9H5BrF3N
reactant | 1H-indazole-5-carbaldehyde | N1N=CC2=CC(=CC=C12)C=O | C8H6N2O
product | 4-(5-Formyl-indazol-1-ylmethyl)-3-trifluoromethyl-benzonitrile | C(=O)C=1C=C2C=NN(C2=CC1)CC1=C(C=C(C#N)C=C1)C(F)(F)F | C17H10F3N3O
